2168-04-07 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - diagnostic para negative for SBP
   - attempted right A line, unable to thread - held off as weaning down
   on levophed, noninvasive BPs seem to be ok
   - weaned off pressors
   - added on tsh given relative bradycardia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2168-4-6**] 11:43 AM
   Meropenem - [**2168-4-6**] 06:00 PM
   Metronidazole - [**2168-4-7**] 12:00 AM
   Vancomycin - [**2168-4-7**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-4-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-7**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 51 (51 - 61) bpm
   BP: 148/79(97) {95/45(58) - 151/79(97)} mmHg
   RR: 14 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  2,645 mL
                                                                    534 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  2,189 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,645 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   410 K/uL
   8.5 g/dL
   181 mg/dL
   2.8 mg/dL
   15 mEq/L
   4.7 mEq/L
   85 mg/dL
   101 mEq/L
   134 mEq/L
   28.8 %
   24.0 K/uL
        [image002.jpg]
                             [**2168-4-6**]  01:39 AM
                             [**2168-4-7**]  02:44 AM
   WBC
   24.1
   24.0
   Hct
   29.7
   28.8
   Plt
   362
   410
   Cr
   2.4
   2.8
   Glucose
   125
   181
   Other labs: PT / PTT / INR:17.0/45.3/1.5, ALT / AST:34/73, Alk Phos / T
   Bili:348/11.5, Amylase / Lipase:41/22, Fibrinogen:541 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.1 mg/dL
   Tbili 11.5
   Ascites: 115 WBC, 8 polys
   Final read CT abd:
   1. Increased size of small right pleural effusion with right lower lobe
   opacity, possibly compressive atelectasis, but infection is not
   excluded.
   2. Central venous line terminates in the inferior vena cava.
   3. Heterogeneous enhancement of the liver which may be due underlying
   chronic
   liver disease. No evidence of biliary dilatation.
   4. Heterogeneous enhancement of the spleen with peripheral areas of
   non-enhancement concerning for splenic infarction.
   5. Non-enhancement of the kidneys concerning for acute cortical
   necrosis.
   6. Left medial thigh rim-enhancing fluid collection concerning for
   abscess,
   partially imaged.
   7. Diffuse bowel wall thickening, more pronounced within the large
   bowel.
   Findings may be due to third spacing and hypoalbuminea, but colitis
   cannot be
   excluded.
   8. Cholelithiasis.
   9. Large volume ascites and anasarca.
   Assessment and Plan
   48 year old female with ESRD on HD, Chronic HBV, on wound vac for
   abdominal wall abscess s/p exlap, closure of gastrostomy and peg
   removal, I&D abd wall abscess x3/necrotizing fascitis and recent
   E.Coli, [**Female First Name (un) **], and Pseudomonas bacteremia, and cdiff admitted with
   sepsis now off pressors overnight.
   .
   # Sepsis: Still multiple possible etiologies for infection (abdominal
   infection, pancolitis in setting of cdiff, thigh abcess, line
   infection) but ruled out for SBP and BP improved now MAP 90s, weaned
   off pressors yesterday with fluids and also stress dose steroids. No
   fever spikes. BCx all negative so far ([**Date range (1) 11811**]) and if not bacteremic,
   possibility of line infection lower. Could all be explained from the
   new cdiff with pancolitis and dehydration. Also, component of adrenal
   insufficiency.
   - continue broad spectrum abx (IV vanco/meropenem/micafungin/flagyl day
   #2 and PO vanco day #7)
   - ID following, appreciate recs
   - f/u cultures
   - continue IV hydrocortisone (day#2 hydrocortisone 50mg IV Q6hr) and
   s/p one dose high dose steroids
   - fluid boluses prn to keep MAP>65, however, will be hemodialyzed
   - in terms of studies, will still need I and D of abcesses overnight
   - still needs TTE
   - daily BCx from sites including fungal cultures overnight
   - if BCx remain negative, could pull R femoral line
   .
   # Possible hypercoagulable state/evidence of emboli: Patient will new
   splenic infarcts, concern for hypercoagulable state
   - need LENIs, R upper extremity ultrasound today
   .
   # HBV/autoimmune cholangiopathy: Patient with known HBV on treatment
   and autoimmune cholangiopathy in past. Bilis are increased from prior -
   up to Tbili 11.7. MELD 33 - on transplant list. s/p recent prednisone
   course (unclear end date)
   - liver consult in AM - patient's last 2 month course was on liver
   service
   - trend bili
   - continue ursodiol
   - continue tenofovir and entecavir
   .
   # Abdominal wall abcess: s/p complicated course with multiple I/D,
   debridements and multiple courses of antibiotics for resistant
   organisms. Was sent to rehab off antibiotics and on wound vac
   - surgery following, appreciate recs, discuss drainage of 2cm thigh
   fluid collection
   - keep NPO for now in case needs procedure
   - talk to surgery regarding recs on wound vac/whether plastics will
   need to be involved
   - broad spectrum antibiotics as above
   .
   # Cdiff: Per rehab was positive for cdiff and was on PO vanco after not
   tolerating flagyl [**2-2**] nausea. Patient has baseline diarrhea but at high
   risk [**2-2**] long courses of antibiotics from last hospital stay
   - maintain PO vanco and IV flagyl
   - send stool for cdiff for confirmation here
   - follow stool output
   .
   # DM. Has history of uncontrolled type II diabetes followed at [**Last Name (un) 294**].
   - continue current regimen of 10 units lantus qhs and Humolog SS.
   .
   # ESRD. The patient receives HD M/W/F at [**Hospital1 97**] via R
   tunnelled line. Patient has had infections in prior lines and last
   temp dialysis line was again removed [**2-24**] and grew pseudomonas,
   E. Coli, and stenotrophomonas. Cr within recent baseline.
   - renal HD involved
   - watch for bacteremia, evaluate line for infection, send BCx from HD
   line
   .
   # Anemia: Chronic anemia of chronic disease/CKD. Hct within recent
   baseline
   - monitor Hct
   - renal involved re ?procrit at HD sessions
   .
   # Hypertension: Currently in septic shock
   - hold antihypertensives for now
   .
   # FEN: NPO for now in case procedure. Was on TPN at rehab
   # Prophylaxis: Subcutaneous heparin
   # Access: R tunnelled HD catheter, R double lumen PICC, R femoral
   triple lumen catheter.
   # Communication: Patient, Brother [**Name (NI) 5761**] [**Name (NI) 1576**] [**Telephone/Fax (1) 11788**]
   # Code: Full (discussed with patient), ICU consent signed and in chart
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2168-4-6**] 05:30 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2168-4-6**] 02:25 AM
   PICC Line - [**2168-4-6**] 02:30 AM
   18 Gauge - [**2168-4-6**] 02:32 AM
   Multi Lumen - [**2168-4-6**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-04-07 10:54:00 Physician Attending Progress Note
Chief Complaint:  hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   C Difficile Colitis, shock
   24 Hour Events:
   Improved BP and off HD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2168-4-6**] 11:43 AM
   Meropenem - [**2168-4-7**] 06:00 AM
   Vancomycin - [**2168-4-7**] 06:07 AM
   Metronidazole - [**2168-4-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-4-6**] 10:00 PM
   Pantoprazole (Protonix) - [**2168-4-7**] 08:00 AM
   Other medications:
   heparin tid
   vanc oral
   micafungin
   meropenem
   hydrocort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-7**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 52 (51 - 60) bpm
   BP: 155/76(93) {95/45(58) - 155/85(100)} mmHg
   RR: 21 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  2,645 mL
                                                                  1,116 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,189 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,645 mL
                                                                  1,116 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, PEG in place.  Wet-dry dressing LLQ
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   8.5 g/dL
   410 K/uL
   181 mg/dL
   2.8 mg/dL
   15 mEq/L
   4.7 mEq/L
   85 mg/dL
   101 mEq/L
   134 mEq/L
   28.8 %
   24.0 K/uL
        [image002.jpg]
                             [**2168-4-6**]  01:39 AM
                             [**2168-4-7**]  02:44 AM
   WBC
   24.1
   24.0
   Hct
   29.7
   28.8
   Plt
   362
   410
   Cr
   2.4
   2.8
   Glucose
   125
   181
   Other labs: PT / PTT / INR:17.0/45.3/1.5, ALT / AST:34/73, Alk Phos / T
   Bili:348/11.5, Amylase / Lipase:41/22, Fibrinogen:541 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.1 mg/dL
   Assessment and Plan
   48 yo F ESRD on HD, Chronic HBV, recent prolonged hospitalization for
   PEG placement c/b abdominal wound infection, who was transferred to ICU
   with sepsis likely [**2-2**] cidf
   1. Sepsis: given + Cdif culture and absence of any other localizing
   infections, appears most likely cdifficile sepsis.  Overall she is
   hemodynamically improving and currently tolerating HD off pressors
    - will cont broad-spectrum abx/antifungals for total 48 hours if
   cultures remain negative.
    - vanc/zosyn/micafungin
    - will continue po vanc, iv flagyl for Cdif
    - Cont ivf to maintain MAP > 65
    - surgery to evaluate thigh abscess for possible infection
    - will discontinue femoral triple lumen
    - cont f/u culture data
   2. ? thrombosis with splenic infarcts:
    - will check lenis today
   3. Adrenal insufficiency:
    - on hydrocort 50 q 6, will taper starting tomorrow
   4. HBV: cont antivirals
   5. abdominal wound: will discuss further management with surgery - ?
   placement of wound vac and advancing her diet
   6. ESRD: tolerating HD today
   7. HTN: holding antihypertensives
   8. Dispo: if she remains hemodynamically stable after completion of HD,
   will request transfer to liver service
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2168-4-6**] 05:30 PM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2168-4-6**] 02:25 AM
   PICC Line - [**2168-4-6**] 02:30 AM
   18 Gauge - [**2168-4-6**] 02:32 AM
   Multi Lumen - [**2168-4-6**] 07:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-04-08 05:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   called out, had offer briefly on ET but changed due to concern for
   infections / exposure to transplant patients per ET nurses/ bed
   facilitator --> can be called out in a.m.
   - diarrhea markedly improved
   - LENIs negative
   - had aspiration of fluid collection in left thigh--> cultures pending
   - Bilateral UE clots --> right IJ and older left brachial clot
   - surgery says ok to anticoagulate if we need to
   - started her on clears
   - pulled fem line
   - BP still remains stable off of pressors
   - low vanc trough, timing off [**2-2**] not being collected at HD, will need
   recheck at HD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2168-4-7**] 12:00 PM
   Meropenem - [**2168-4-7**] 06:00 PM
   Vancomycin - [**2168-4-8**] 12:02 AM
   Metronidazole - [**2168-4-8**] 12:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-4-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-4-7**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-8**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 63 (51 - 66) bpm
   BP: 115/46(64) {107/24(47) - 155/85(100)} mmHg
   RR: 17 (16 - 43) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,421 mL
                                                                    689 mL
   PO:
                                                                    100 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    740 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,421 mL
                                                                    689 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen: Affect slightly improved, alert and oriented
   HEENT: Sclera jaundiced
   Lungs: CTA bilaterally
   CV: SEM loudest at apex
   Abd: wound vac in place, belly soft, nontender
   Ext: R PICC, R tunnelled catheter in place, swelling in LE, R slightly
   greater than L.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   428 K/uL
   8.3 g/dL
   177 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.2 mEq/L
   52 mg/dL
   98 mEq/L
   135 mEq/L
   27.4 %
   20.4 K/uL
        [image002.jpg]
                             [**2168-4-6**]  01:39 AM
                             [**2168-4-7**]  02:44 AM
                             [**2168-4-8**]  03:19 AM
   WBC
   24.1
   24.0
   20.4
   Hct
   29.7
   28.8
   27.4
   Plt
   362
   410
   428
   Cr
   2.4
   2.8
   1.9
   Glucose
   125
   181
   177
   Other labs: PT / PTT / INR:16.2/36.1/1.4, ALT / AST:35/87, Alk Phos / T
   Bili:329/10.0, Amylase / Lipase:41/22, Fibrinogen:541 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:286 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   BCx: [**4-5**], [**4-6**], [**4-7**]: NGTD
   L thigh cultures pending
   HBV VL PND
   Assessment and Plan:
   48 year old female with ESRD on HD, Chronic HBV, on wound vac for
   abdominal wall abscess s/p exlap, closure of gastrostomy and peg
   removal, I&D abd wall abscess x3/necrotizing fascitis and recent
   E.Coli, [**Female First Name (un) **], and Pseudomonas bacteremia, and cdiff admitted with
   sepsis [**2-2**] cdiff/colitis now steadily recuperating off of pressors and
   hemodynamically stable
   .
   # Sepsis: [**2-2**] cdiff with pancolitis and dehydration with possible
   component of adrenal insufficiency. SBP has been good, off pressors for
   >48hrs now. No growth>48hrs on blood cultures so unlikely line
   infection.
   - Continue PO vanco day #8, but discontinue all other antibiotics
   - f/u cultures and fungal markers, CIS
   - f/u abscess drainage cultures for bacterial/fungal/AFB cx
   - ID following, appreciate recs
   - day#3 steroids, can wean down to 25mg IV Q8hr today
   - target map>65, fluid bolus prn
   - ok to keep HD catheter and R PICC line
   ..
   # Possible hypercoagulable state/evidence of emboli: Patient will new
   splenic infarcts, concern for hypercoagulable state. LENIs negative,
   Upper Extremity ultrasound showed Right IJ clot and e/o older left
   brachial clot
   - no indication for anticoagulation
   - R PICC not involved, can continue to keep/use line
   - f/u TTE
   .
   # HBV/autoimmune cholangiopathy: Patient with known HBV on treatment
   and autoimmune cholangiopathy in past. Bilis are improved
   - liver recs appreciated
 talk to liver regarding long term need for
   steroids
   - continue ursodiol
   - continue tenofovir and entecavir
   .
   # H/o Abdominal wall abcess: s/p complicated course with multiple I/D,
   debridements and multiple courses of antibiotics for resistant
   organisms. Wound vac now in place
   - transplant surgery and plastics following. No need for further
   abdominal exploration, cultures at this point
   - continue wound vac
   .
   # Cdiff: Has baseline loose stools, per report C diff positive at her
   rehab in setting of recent broad spectrum abx. Stool output decreased
   - maintain PO vanco for cdiff coverage
   - obtain micro data from OSH
   .
   # DM. Has history of uncontrolled type II diabetes followed at [**Last Name (un) 294**].
   - continue current regimen of 10 units lantus qhs and Humolog SS.
   .
   # ESRD. The patient receives HD M/W/F at [**Hospital1 97**] via R
   tunnelled line.
   - renal recs appreciated
   .
   # Anemia: Chronic anemia of chronic disease/CKD. Hct within recent
   baseline
   - monitor Hct daily, epo
   .
   # Hypertension: BPs improved today
   - If BP remain stable may resume home meds after callout to floor
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2168-4-7**] 05:30 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2168-4-6**] 02:25 AM
   PICC Line - [**2168-4-6**] 02:30 AM
   18 Gauge - [**2168-4-6**] 02:32 AM - LUE
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Patient, Brother [**Name (NI) 5761**] [**Name (NI) 1576**] [**Telephone/Fax (1) 11788**]
   Code status: Full code
   Disposition: ICU, called out to floor

2168-04-08 11:38:00 Physician Attending Progress Note
Chief Complaint: Abdominal Pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   48 yo F with history of ESRD on HD, recent abdominal infection, here w
   Cdif complicated by hypotension
   24 Hour Events:
   Upper extremity dopplers with R IJ clot and L brachial clot
   Vac dressing placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2168-4-7**] 12:00 PM
   Meropenem - [**2168-4-8**] 06:00 AM
   Vancomycin - [**2168-4-8**] 06:30 AM
   Metronidazole - [**2168-4-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-4-8**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2168-4-8**] 10:31 AM
   Other medications:
   RISS
   protonix 40
   ursodiol
   entecavir
   tenofovir
   heparin 5000 [**Hospital1 **]
   vanc 125 po q 6
   micafungin
   meropenem
   flagyl 500 po q 8
   hydrocort 50 iv q6
   vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-4-8**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**69**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 65 (60 - 65) bpm
   BP: 141/59(78) {107/24(47) - 142/69(86)} mmHg
   RR: 18 (14 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,421 mL
                                                                  1,482 mL
   PO:
                                                                    100 mL
                                                                    410 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -579 mL
                                                                  1,482 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Overweight / Obese, Thin, Anxious, pleasant,
   more interactive
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, wound vac in place LLQ
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   428 K/uL
   177 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.2 mEq/L
   52 mg/dL
   98 mEq/L
   135 mEq/L
   27.4 %
   20.4 K/uL
        [image002.jpg]
                             [**2168-4-6**]  01:39 AM
                             [**2168-4-7**]  02:44 AM
                             [**2168-4-8**]  03:19 AM
   WBC
   24.1
   24.0
   20.4
   Hct
   29.7
   28.8
   27.4
   Plt
   362
   410
   428
   Cr
   2.4
   2.8
   1.9
   Glucose
   125
   181
   177
   Other labs: PT / PTT / INR:16.2/36.1/1.4, ALT / AST:35/87, Alk Phos / T
   Bili:329/10.0, Amylase / Lipase:41/22, Fibrinogen:541 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:286 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   48 yo F ESRD HD, prior abdominal infections, here w cdif colitis now
   improving
   1. Sepsis: has maintained blood pressures within normal limits,
   hemodynamically stable, no further culture data
    - will d/c meropenem, flagyl, micafungin and continue po vancomycin
   for cdif.
   2. Adrenal insufficiency:
    - taper hydrocort: 50 Q 8 today then [**Hospital1 **] tomorrow
    - will discuss with liver service regarding GC needs for possible
   autoimmune colitis
   3. Upper extremity clots:
    - do not appear acute, will hold off on systemic a/c.  Not involving
   picc so will keep picc
   4. HBV colopathy: f/u with liver service, continue antivirals
   5. Abdominal wound: cont vac dressing
   6. FEN: cont tpn and adat
   7. ESRD: HD today
   8. HTN: restart home bp regimen if remains normotensive post HD
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2168-4-7**] 05:30 PM 75 mL/hour
   Comments: ADAT, add supplements
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2168-4-6**] 02:25 AM
   PICC Line - [**2168-4-6**] 02:30 AM
   18 Gauge - [**2168-4-6**] 02:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes